US04485248
A process for preparing Tetroxoprim starting from 3,5-dimethoxy-4-methoxyethoxy-benzaldehyde and 2,4-diamino-6-hydroxy-pyrimidine, by successive hydrogenation, halogenation and hydrogenolysis of the 2,4-diamino-6-oxo-5-(3,5-dimethoxy-4-methoxyethoxy-benzylidene)-pyrimidine obtained in the initial reaction.

reactant | Tetroxoprim | COCCOC=1C(=CC(=CC1OC)CC=2C=NC(=NC2N)N)OC | C16H22N4O4
reactant | 3,5-dimethoxy-4-methoxyethoxy-benzaldehyde | COC=1C=C(C=O)C=C(C1OCCOC)OC | C12H16O5
reactant | 2,4-diamino-6-hydroxy-pyrimidine | NC1=NC(=CC(=N1)N)O | C4H6N4O
product | 2,4-diamino-6-oxo-5-(3,5-dimethoxy-4-methoxyethoxy-benzylidene)-pyrimidine | NC1=NC(C(C(=N1)N)=CC1=CC(=C(C(=C1)OC)OCCOC)OC)=O | C16H20N4O5
